US06437142B1
5.1.5 Preparation of (2E,9Z)-2-(12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dienylsulfanyl)-benzothiazole
To a solution of 6.59 g of 2-mercapto-benzothiazole and 7.87 g of triphenylphosphine in 65 ml of THF was added at 0° a solution of 9.25 g of (2E,9Z)-12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dien-1-ol in 35 ml of THF which was followed by addition of 8.09 g of diisopropyl azodicarboxylate over 20 min and stirring was continued at 0° for 1 h after which time t.l.c. indicated completion of the reaction. The mixture was washed with sat. aqueous NH4Cl- and NaCl-solution, the organic layer was dried over MgSO4 and evaporated. The residue was chromatographed on silica with hexane/AcOEt 9:1 to give 11.13 g of the pure (t.l.c.) title compound as a yellow oil. IR (neat): 1663w (C═C). MS (EI): 611/7 (M).

reactant | 2-mercapto-benzothiazole | 6.59 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | triphenylphosphine | 7.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2E,9Z)-12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dien-1-ol | 9.25 g | FC(C(\C=C/CC(CCC/C=C/CO)(C)C)(C(F)(F)F)O[Si](CC)(CC)CC)(F)F | C21H36F6O2Si
reactant | diisopropyl azodicarboxylate | 8.09 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | (2E,9Z)-2-(12,12,12-Trifluoro-7,7-dimethyl-11-triethylsilanyloxy-11-trifluoromethyl-dodeca-2,9-dienylsulfanyl)-benzothiazole | FC(C(\C=C/CC(CCC/C=C/CSC=1SC2=C(N1)C=CC=C2)(C)C)(C(F)(F)F)O[Si](CC)(CC)CC)(F)F | C28H39F6NOS2Si
